US20010021710A1
(±)-cis-7-Hydroxy-3-(4-fluorophenyl)-4-(4-(3-piperidinopropoxy)phenyl)chromane
In an manner analogous to that described in step 5 for Example 7, (±)-cis-3-(4-fluorophenyl)-7-methoxy-4-(4-(3-piperidinopropoxy)phenyl)chromane (0.476 g, 1.0 mmol) was de-methylated by heating with pyridine hydrochloride to give the title compound as an off-white foam.

reactant | (±)-cis-3-(4-fluorophenyl)-7-methoxy-4-(4-(3-piperidinopropoxy)phenyl)chromane | 1.0 mmol, 0.476 g | FC1=CC=C(C=C1)[C@@H]1COC2=CC(=CC=C2[C@@H]1C1=CC=C(C=C1)OCCCN1CCCCC1)OC | C30H34FNO3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | (±)-cis-7-Hydroxy-3-(4-fluorophenyl)-4-(4-(3-piperidinopropoxy)phenyl)chromane | OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)OCCCN1CCCCC1 | C29H32FNO3
